US08603944B2
In a particular example for the preparation, about 16 g of 2,3,3-trimethyl-3H-indole was dissolved in about 100 ml of chloroform. After addition of about 19 g of 2-Iodoethanol, the solution was refluxed while stirring for about 1 day. After cooling, the solvent was removed and the resultant solid was filtered and washed with acetone to yield 1-(2-hydroxyethyl)-2,3,3-trimethyl-3H-indolium iodide.

reactant | 2,3,3-trimethyl-3H-indole | about 16 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 2-Iodoethanol | about 19 g | ICCO | C2H5IO
solvent | chloroform | about 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-hydroxyethyl)-2,3,3-trimethyl-3H-indolium iodide | [I-].OCC[N+]1=C(C(C2=CC=CC=C12)(C)C)C | InChI=1S/C13H18NO.HI/c1-10-13(2,3)11-6-4-5-7-12(11)14(10)8-9-15;/h4-7,15H,8-9H2,1-3H3;1H/q+1;/p-1
